US07507740B2
(i) Production of tert-butyl 4-{4-[(5-{2-[2-(benzoyloxy)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-yl)amino]-2-chlorophenoxy}piperidine-1-carboxylate
A mixture of 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate (3.46 g), tert-butyl 4-(4-amino-2-chlorophenoxy)piperidine-1-carboxylate (3.27 g) and isopropyl alcohol (50 mL) was stirred at 80° C. overnight. The reaction mixture was concentrated under reduced pressure, water and saturated aqueous sodium hydrogen carbonate solution were added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was subjected to silica gel column chromatography (eluent, methanol:ethyl acetate=0:100→10:90). The object fraction was concentrated under reduced pressure. The residue was crystallized from ethyl acetate-diisopropyl ether to give the title compound (4.70 g) as a white powder.

reactant | 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 3.46 g | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)Cl | C17H16ClN3O3
reactant | tert-butyl 4-(4-amino-2-chlorophenoxy)piperidine-1-carboxylate | 3.27 g | NC1=CC(=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)Cl | C16H23ClN2O3
solvent | isopropyl alcohol | 50 mL | C(C)(C)O | C3H8O
product | tert-butyl 4-{4-[(5-{2-[2-(benzoyloxy)ethoxy]ethyl}-5H-pyrrolo[3,2-d]pyrimidin-4-yl)amino]-2-chlorophenoxy}piperidine-1-carboxylate | 4.70 g | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(OC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)Cl | C33H38ClN5O6
